US04533661
(d) (S)-3-Amino-2-oxo-hexahydro-1H-azepine-1-acetic acid, ethyl ester, monohydrochloride
A mixture of (S)-3-[[(1,1-dimethylethoxy)carbonyl]amino]-2-oxo-hexahydro-1H-azepine-1-acetic acid, ethyl ester (1.6 g., 5.0 mmole) and ethyl acetate (5 ml.) at 0° (ice bath) is treated with cold saturated hydrochloric acid/ethyl acetate (40 ml.). After stirring for 45 minutes at 0°, nitrogen is passed through the solution to remove excess hydrochloric acid. The ethyl acetate is evaporated and the resulting oil is triturated with ether (3 times) to give 1.1 g. of (S)-3-amino-2-oxo-hexahydro-1H-azepine-1-acetic acid, ethyl ester, monohydrochloride as a very hygroscopic white crystalline solid after drying in vacuo over phosphorus pentoxide. TLC (methylene chloride/acetic acid/methanol; 8:1:1) major spot at Rf =0.32.

reactant | (S)-3-[[(1,1-dimethylethoxy)carbonyl]amino]-2-oxo-hexahydro-1H-azepine-1-acetic acid, ethyl ester | 5.0 mmole, 1.6 g | CC(C)(OC(=O)N[C@@H]1C(N(CCCC1)CC(=O)OCC)=O)C | C15H26N2O5
reactant | hydrochloric acid ethyl acetate | 40 ml | Cl.C(C)(=O)OCC
solvent | ethyl acetate | 5 ml | C(C)(=O)OCC | C4H8O2
product | (S)-3-Amino-2-oxo-hexahydro-1H-azepine-1-acetic acid, ethyl ester, monohydrochloride | Cl.N[C@@H]1C(N(CCCC1)CC(=O)OCC)=O | InChI=1S/C10H18N2O3.ClH/c1-2-15-9(13)7-12-6-4-3-5-8(11)10(12)14;/h8H,2-7,11H2,1H3;1H/t8-;/m0./s1
